US06441017B1
Step B: (3-Benzyloxyphenyl)(3-chlorophenyl)methyl Azide
To a stirred solution of (3-benzyloxyphenyl)(3-chlorophenyl)methanol, as described above in Step A, (4.0 g, 12.3 mmol) and diphenylphosphoryl azide (4.1 g, 14.9 mmol) in dry toluene (35 mL) at 0° C., was added 1,8-diazabicyclo[5.4.0]undec-7-ene (2.1 g, 13.8 mmol). The resulting mixture was allowed to warm to ambient temperature, and stirred under argon for 18 hours, then washed with 5% hydrochloric acid (10 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—2% EtOAc to yield the product as a colorless oil.

reactant | (3-benzyloxyphenyl)(3-chlorophenyl)methanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)Cl | C20H17ClO2
reactant | diphenylphosphoryl azide | 14.9 mmol, 4.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 13.8 mmol, 2.1 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Benzyloxyphenyl)(3-chlorophenyl)methyl Azide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C1=CC(=CC=C1)Cl)N=[N+]=[N-] | C20H16ClN3O
